US07618978B2
tert-Butyl 5-Bromo-3(R)-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
Dissolve tert-butyl 5-bromo-3(R)-formyl-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate (400.0 mg, 0.001080 mol) and 1-(3,5-difluorophenyl)-2-nitroethane (305 mg, 0.00162) in tetrahydrofuran (3.00 mL) and cool to 0° C. celsius. Add 1.00 M tetra-n-butylammonium fluoride in tetrahydrofuran (1.48 mL) and stir at 0° C. for 40 minutes. Dilute the reaction mixture with ethyl acetate (75 mL), water (20 mL) and saturated aqueous sodium chloride (5 mL). Shake well and separate the layers. Wash the organic layer with water (2×25 mL), saturated aqueous sodium chloride (1×25 mL) and dry over magnesium sulfate. Purify (Biotage medium pressure chromatography eluting with 10% ethyl acetate:hexanes) to give the desired product (234 mg, 37%) as a white solid.

reactant | tert-butyl 5-bromo-3(R)-formyl-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.001080 mol, 400.0 mg | BrC1=C2C[C@@H](N(CC2=C(C=C1)OC)C(=O)OC(C)(C)C)C=O | C16H20BrNO4
reactant | 1-(3,5-difluorophenyl)-2-nitroethane | 305 mg | FC=1C=C(C=C(C1)F)CC[N+](=O)[O-] | C8H7F2NO2
reactant | tetra-n-butylammonium fluoride | 1.00 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.48 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | sodium chloride | 5 mL | [Cl-].[Na+]
product | tert-Butyl 5-Bromo-3(R)-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 234 mg, 37% | BrC1=C2C[C@@H](N(CC2=C(C=C1)OC)C(=O)OC(C)(C)C)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O | C24H27BrF2N2O6
